US05569653
(S)-3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-methylpropylmethyl carbamate
To a solution of 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-3-hydroxy-1H-isoindol-1-one (3.1 g, 10.6 mmol) in dry THF (120 ml) was added methyl isocyanate (0.66 ml, 11.1 mmol) followed by milled K2CO3 (2.2 g, 15.9 mmol) at room temperature, under nitrogen. The reaction mixture was stirred for 3 days at which time it was filtered through a pad of Celite and the solids washed with EtOAc. The combined filtrates were concentrated to give the crude product which was purified via flash column chromatography (silica gel, 2% Et3N/EtOAc). The product containing fractions were concentrated to give 2.7 g (73%) of the desired product as an oil which solidified on standing. Recrystallization from EtOAc/pet.ether gave the product as a solid, m.p.=72°-74° C.

reactant | 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-3-hydroxy-1H-isoindol-1-one | 10.6 mmol, 3.1 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2O)=O)C=C1 | C22H22FN3O3
reactant | methyl isocyanate | 11.1 mmol, 0.66 ml | CN=C=O | C2H3NO
reactant | K2CO3 | 15.9 mmol, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | THF | 120 ml | C1CCOC1 | C4H8O
product | (S)-3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-methylpropylmethyl carbamate | 2.7 g, 73% | C(N)(OCC[C@@H](CN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F)C)=O | C18H24FN3O3
